US06521754B2
N-Benzothiazol-2-yl-6-chloro-nicotinamide
Using 2-amino-benzothiazole and 2-chloropyridine-5-carboxylic acid chloride in pyridine the title compound was obtained as a white solid (97% yield), MS: m/e=290.1 (M+H+).

reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloropyridine-5-carboxylic acid chloride | ClC1=NC=C(C=C1)C(=O)Cl | C6H3Cl2NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-Benzothiazol-2-yl-6-chloro-nicotinamide | S1C(=NC2=C1C=CC=C2)NC(C2=CN=C(C=C2)Cl)=O | C13H8ClN3OS
